US08633211B2
Intermediate V {1-[(5-Chloro-2,4-dimethoxy-phenylcarbamoyl)-methyl]-2,4-dioxo-1,4-dihydro-2H-pyrido[3,4-d]pyrimidin-3-yl}-acetic acid tert-butyl ester
A 25 ml round bottomed flask is charged with (2,4-dioxo-1,4-dihydro-2H-pyrido[3,4-d]pyrimidin-3-yl)-acetic acid tert-butyl ester (23.9 mg, 0.086 mmol), 2-bromo-N-(5-chloro-2,4-dimethoxy-phenyl)-acetamide (30.5 mg, 0.095 mmol) and Cs2CO3 (84.6 mg, 0.172 mmol). The mixture is treated with DMF (2 ml) and the solution stirred at RT overnight. Water is added to the mixture giving rise to a solid. This is filtered, dried, and purified via flash column chromatography, eluting with iso-hexane:EtOAc to give the title compound.

reactant | (2,4-dioxo-1,4-dihydro-2H-pyrido[3,4-d]pyrimidin-3-yl)-acetic acid tert-butyl ester | 0.086 mmol, 23.9 mg | C(C)(C)(C)OC(CN1C(NC2=C(C1=O)C=CN=C2)=O)=O | C13H15N3O4
reactant | 2-bromo-N-(5-chloro-2,4-dimethoxy-phenyl)-acetamide | 0.095 mmol, 30.5 mg | BrCC(=O)NC1=C(C=C(C(=C1)Cl)OC)OC | C10H11BrClNO3
reactant | Cs2CO3 | 0.172 mmol, 84.6 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | {1-[(5-Chloro-2,4-dimethoxy-phenylcarbamoyl)-methyl]-2,4-dioxo-1,4-dihydro-2H-pyrido[3,4-d]pyrimidin-3-yl}-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C(N(C2=C(C1=O)C=CN=C2)CC(NC2=C(C=C(C(=C2)Cl)OC)OC)=O)=O)=O | C23H25ClN4O7
